US05985909
1-(t-Butoxycarbonyl)-3-(chloromethyl)-6-nitroindoline was coupled with 2-carboxy-N-[2-(4-morpholinyl)ethyl]indole-6-carboxamide by the method described above and triturated with hot MeOH to give 2-[[3-(chloromethyl)-6-nitroindolin-1-yl]carbonyl]-N-[2-(4-morpholinyl)ethyl]indole-6-carboxamide as a yellow solid (50%), mp 227-228° C. (dec.). 1H NMR [(CD3)2SO] δ12.15 (s, 1H, indole NH), 8.98 (d, J=2.0 Hz, 1H, H-7), 8.41 (t, J=5.5 Hz, 1H, amide NH), 8.04 (dd, J=8.3, 2.2 Hz, 1H, H-5), 8.01 (s, 1 H, H-3' or H-7'), 7.76 (d, J=8.2 Hz, 1H, H-4 or H-4'), 7.74 (d, J=8.0 Hz, 1H, H-4 or H-4'), 7.57 (dd, J=8.5, 1.1 Hz, 1H, H-5'), 7.28 (d, J=1.4 Hz, 1H, H-3' or H-7'), 4.86 (t, J=10.1 Hz, 1H, H-2), 4.51 (dd, J=10.7, 5.2 Hz, 1H, H-2), 4.19-4.06 (m, 3H, H-3 and CH2Cl), 3.59 (t, J=4.5 Hz, 4H, CH2O), 3.42 (q, J=6.5 Hz, 2H, CONHCH2), 2.50 (t, J=6.9 Hz, 2H, CONHCH2CH2), 2.46-2.41 (m, 4H, NCH2CH2O); 13C NMR δ166.7 (CONH), 160.4 (CON), 147.6, 144.6, 144.0, 135.7, 131.8, 130.8, 129.0 (C-6,8,9,2',6',8',9'), 125.5, 121.6, 119.5, 118.9, 112.0, 111.2, 106.1 (C-4,5,7,3',4',5',7'), 66.2 (CH2O), 57.4 (CONHCH2CH2), 54.0 (C-2), 53.3 (NCH2CH2O), 47.0 (CH2Cl), 42.0 (C-3), 36.6 (CONHCH2). A sample was converted to the hydrochloride salt and triturated with hot EtOH to give 2-[[3-(chloromethyl)-6-nitroindolin-1-yl]carbonyl]-N-[2-(4-morpholinyl)ethyl]indole-6-carboxamide hydrochloride as a pale yellow powder, mp 280-285° C. (dec.). Anal. (C25H26ClN5O5.HCl.H2O) C,H,N.

reactant | 1-(t-Butoxycarbonyl)-3-(chloromethyl)-6-nitroindoline | C(C)(C)(C)OC(=O)N1CC(C2=CC=C(C=C12)[N+](=O)[O-])CCl | C14H17ClN2O4
reactant | 2-carboxy-N-[2-(4-morpholinyl)ethyl]indole-6-carboxamide | C(=O)(O)C=1NC2=CC(=CC=C2C1)C(=O)NCCN1CCOCC1 | C16H19N3O4
product | 2-[[3-(chloromethyl)-6-nitroindolin-1-yl]carbonyl]-N-[2-(4-morpholinyl)ethyl]indole-6-carboxamide | 50% | ClCC1CN(C2=CC(=CC=C12)[N+](=O)[O-])C(=O)C=1NC2=CC(=CC=C2C1)C(=O)NCCN1CCOCC1 | C25H26ClN5O5
